US08957070B2
7-[(2-Methoxyethyl) (2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
To a mixture of 7-[(2-methoxyethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.46 g), 2-(tritylthio)ethylamine hydrochloride (0.47 g), 1H-1,2,3-benzotriazol-1-ol (0.19 g), triethylamine (0.20 mL) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.28 g) at 0° C., and the mixture was stirred at 50° C. for 1 hr. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried to give the title compound (0.90 g, quantitative) as colorless crystals. melting point 65-66° C.

reactant | 7-[(2-methoxyethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.46 g | COCCN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C16H16N2O5S2
reactant | 2-(tritylthio)ethylamine hydrochloride | 0.47 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.19 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.28 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.20 mL | C(C)N(CC)CC | C6H15N
product | 7-[(2-Methoxyethyl) (2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 0.90 g | COCCN(C=1C=CC=C2C=C(NC12)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C=1SC=CC1 | C37H35N3O4S3
